US07915270B2
Methyl 2-(2-(7-phenylheptanoyl)oxazol-5-yl)isonicotinate
Methyl 2-(2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)oxazol-5-yl)isonicotinate. The title compound was prepared from 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole (130 mg, 0.196 mmol) and methyl 2-chloroisonicotinate following General Procedure A. Flash chromatography (10% EtOAc/hexanes) yielded the title compound as a thick oil (72 mg, 71%): 1H NMR (CDCl3, 400 MHz) δ 8.77 (d, 1H, J=5.0 Hz), 8.20 (s, 1H), 7.77 (dd, 1H, J=5.0, 1.5 Hz), 7.70 (s, 1H), 7.28-7.24 (m, 2H), 7.18-7.15 (m, 3H), 4.88 (dd, 1H, J=7.0, 5.9 Hz), 4.00 (s, 3H), 2.60 (t, 2H, J=7.8 Hz), 1.95 (m, 2H), 1.61 (m, 2H), 1.36 (m, 4H), 0.92 (s, 9H), 0.11 (s, 3H), 0.02 (s, 3H); 13C NMR (CDCl3, 100 MHz) δ 166.2, 165.2, 150.7, 150.1, 148.4, 142.7, 138.3, 128.3, 128.2, 126.0, 125.5, 121.8, 118.3, 68.7, 52.8, 36.4, 35.9, 31.4, 29.1, 25.7, 25.7, 25.1, 18.2, −5.0, −5.1.

reactant | Methyl 2-(2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)oxazol-5-yl)isonicotinate | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)C=1C=C(C(=O)OC)C=CN1 | C29H40N2O4Si
reactant | 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole | 0.196 mmol, 130 mg | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)[Sn](CCCC)(CCCC)CCCC
reactant | methyl 2-chloroisonicotinate | ClC=1C=C(C(=O)OC)C=CN1 | C7H6ClNO2
product | Methyl 2-(2-(7-phenylheptanoyl)oxazol-5-yl)isonicotinate | 72 mg, 71% | C1(=CC=CC=C1)CCCCCCC(=O)C=1OC(=CN1)C=1C=C(C(=O)OC)C=CN1 | C23H24N2O4
